US06559162B2
tert-Butyl 8-[[3-(4-Cyanophenoxy)-2-hydroxypropyl](methyl)amino]-3-azabicyclo[3.2.1]octane-3-carboxylate
A mixture of 4-{3-[3-azabicyclo[3.2.1]oct-8-yl(methyl)amino]-2-hydroxypropoxy}benzonitrile (Preparation E; 229 mg, 0.726 mmol) and di-tert-butyldicarbonate (158 mg, 0.726 mmol) in dichloromethane (3.0 mL) was stirred for 2 h at 25° C. under nitrogen. The mixture was concentrated in vacuo and the residue chromatographed on silica gel, eluting with ethyl acetate:dichloromethane (1:2), to yield 70 mg (25%) of the tide compound as a colorless oil.

reactant | 4-{3-[3-azabicyclo[3.2.1]oct-8-yl(methyl)amino]-2-hydroxypropoxy}benzonitrile | 0.726 mmol, 229 mg | C12CNCC(CC1)C2N(CC(COC2=CC=C(C#N)C=C2)O)C | C18H25N3O2
reactant | di-tert-butyldicarbonate | 0.726 mmol, 158 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | tert-Butyl 8-[[3-(4-Cyanophenoxy)-2-hydroxypropyl](methyl)amino]-3-azabicyclo[3.2.1]octane-3-carboxylate | 70 mg, 25% | C(#N)C1=CC=C(OCC(CN(C2C3CN(CC2CC3)C(=O)OC(C)(C)C)C)O)C=C1 | C23H33N3O4
